US08202866B2
2-(4-Bromo-phenyl)-3-(3-diethylamino-pyrrolidin-1-yl)-propionic acid
To a solution of 2-(4-bromo-phenyl)-3-(3-diethylamino-pyrrolidin-1-yl)-propionic acid ethyl ester (639 mg, 1.6 mmol) in MeOH (4 mL) was added aq. NaOH (2N, 8 mmol). The solution was stirred at 40 degrees Celsius for 2 h, then concentrated in vacuo. The residue was dissolved in water and neutralized with 2N HCl to pH 5-6 at 0 degrees Celsius. Then the mixture was evaporated to dryness under reduced pressure to obtain a white solid product without further purification. MS: calc'd 369 (MH+), exp 369 (MH+).

reactant | 2-(4-bromo-phenyl)-3-(3-diethylamino-pyrrolidin-1-yl)-propionic acid ethyl ester | 1.6 mmol, 639 mg | C(C)OC(C(CN1CC(CC1)N(CC)CC)C1=CC=C(C=C1)Br)=O | C19H29BrN2O2
reactant | NaOH | 8 mmol, 2N | [OH-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
product | 2-(4-Bromo-phenyl)-3-(3-diethylamino-pyrrolidin-1-yl)-propionic acid | BrC1=CC=C(C=C1)C(C(=O)O)CN1CC(CC1)N(CC)CC | C17H25BrN2O2
